US05439955
2(Benzotriazol2yl)4tert -octyl-6-(2hydroxy-3-benzoyl-6-n-octyloxybenzyl)phenol
Methanol (50 ml) is placed into a 300 ml three-necked flask equipped with a stirrer, thermometer, condenser, Dean-Stark trap and nitrogen inlet. Sodium (0.3 g, 0.013 mol) is added to the methanol and the mixture stirred at room temperature till all the sodium is dissolved. Then, 2-(2-hydroxy-3-diethylaminomethyl-5-tert-octylphenyl)-2H-benzotriazole (10.2 g, 0.025 mol), 2-hydroxy-4-n-octyloxybenzophenone (8.2 g, 0.025 mol) and another 50 ml of methanol are added to the sodium methoxide solution. The reactants are heated at reflux till half the methanol is collected in the Dean-Stark trap. o-Xylene (50 ml) is added and the temperature is raised to the reflux temperature of o-xylene (143°-145° C.) and heating is continued for 24 hours. The mixture is then cooled and acetic acid is added to neutralize the sodium methoxide catalyst. The o-xylene solvent is then removed by vacuum distillation. The crude product obtained is recrystallized from heptane to afford the title compound in a yield of 10 g (62 % yield) as a white crystalline solid melting at 96°-100° C.

reactant | Sodium | 0.013 mol, 0.3 g | [Na] | Na
reactant | 2-(2-hydroxy-3-diethylaminomethyl-5-tert-octylphenyl)-2H-benzotriazole | 0.025 mol, 10.2 g | OC1=C(C=C(C=C1CN(CC)CC)C(C)(C)CC(C)(C)C)N1N=C2C(=N1)C=CC=C2 | C25H36N4O
reactant | 2-hydroxy-4-n-octyloxybenzophenone | 0.025 mol, 8.2 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OCCCCCCCC | C21H26O3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
solvent | Methanol | 50 ml | CO | CH4O
product | 2(Benzotriazol2yl)4tert -octyl-6-(2hydroxy-3-benzoyl-6-n-octyloxybenzyl)phenol | 62 % yield | N=1N(N=C2C1C=CC=C2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)CC2=C(C(=CC=C2OCCCCCCCC)C(C2=CC=CC=C2)=O)O)O | C42H51N3O4
